US09145415B2
To a solution of methyl 3,3,3-trifluoro-2-((3-nitrophenyl)amino)propanoate (C13, 297 mg) in ethanol (10 mL), sodium borohydride (121 mg) was added at room temperature, and the mixture was stirred at the same temperature for 4 hours. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 50% hexane in ethyl acetate) to obtain 3,3,3-trifluoro-2-((3-nitrophenyl)amino)propan-1-ol (C14, 197 mg).

reactant | methyl 3,3,3-trifluoro-2-((3-nitrophenyl)amino)propanoate | 297 mg | FC(C(C(=O)OC)NC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C10H9F3N2O4
reactant | sodium borohydride | 121 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3,3,3-trifluoro-2-((3-nitrophenyl)amino)propan-1-ol | 197 mg | FC(C(CO)NC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C9H9F3N2O3
